US07071169B2
Hydrogen chloride gas is bubbled through a solution of (L)-homophenylalanine (5.13 g, 28.7 mmol) in 100 mL of ethanol for 5 minutes. The mixture is stirred at room temperature for 16 hours. The mixture is concentrated in vacuo to yield L-homophenylalanine ethyl ester hydrochloride as a white solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | (L)-homophenylalanine | 28.7 mmol, 5.13 g | N[C@@H](CCC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | L-homophenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CCC1=CC=CC=C1)=O | InChI=1S/C12H17NO2.ClH/c1-2-15-12(14)11(13)9-8-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H/t11-;/m0./s1
